US04879038
Synthesis Example 17 (Synthesis of 3-(2-thienyl)acryloylchloride)
65 ml of benzene was added to 10 grams of 3-(2-thienyl)acrylic acid. 7.8 ml of thionyl chloride was added dropwise slowly thereto at ambient temperature. The temperature was elevated to 70° C. and the heating was continued until foaming ceased. Benzene and thionyl chloride were distilled off and the residue was dried thoroughly under reduced pressure.

reactant | 3-(2-thienyl)acrylic acid | 10 grams | S1C(=CC=C1)C=CC(=O)O | C7H6O2S
reactant | thionyl chloride | 7.8 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 65 ml | C1=CC=CC=C1 | C6H6
product | 3-(2-thienyl)acryloylchloride | S1C(=CC=C1)C=CC(=O)Cl | C7H5ClOS
